US05633248
(1) 4,4-Diphenyl-5-hydroxyl-6-heptenenitrile
Under argon gas, 4,4-diphenyl-4-formylbutanenitrile (5.0 g) was dissolved in dry tetrahydrofuran (200 ml). Then, 1M vinylmagnesium bromide-tetrahydrofuran (30 ml) was added dropwise -40° C. After completion of addition, the reaction temperature was allowed to rise gradually to 0° C. (over 3 hours). After completion of the reaction, a saturated aqueous solution of ammonium chloride was added to the reaction mixture and the insoluble matter was filtered off. The filtrate was extracted with ethyl acetate, washed, dried, and concentrated and the group was purified by silica gel column chromatography. The active fraction was concentrated to provide the title compound as oil (5.4 g).

reactant | 4,4-diphenyl-4-formylbutanenitrile | 5.0 g | C1(=CC=CC=C1)C(CCC#N)(C=O)C1=CC=CC=C1 | C17H15NO
reactant | vinylmagnesium bromide tetrahydrofuran | 1M, 30 ml | C(=C)[Mg]Br.O1CCCC1
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 4,4-Diphenyl-5-hydroxyl-6-heptenenitrile | 5.4 g | C1(=CC=CC=C1)C(CCC#N)(C(C=C)O)C1=CC=CC=C1 | C19H19NO
